US05739299
2--Chloro-5-nitro benzene sulphonylchloride (40 parts) was stirred in p-dioxane (48 parts) at room temperature. Potassium fluoride (10 parts) dissolved in water (35 parts) was added, and the mixture heated to 70° C. Stirred at 70° C. for 4 hours then cooled to room temperature and poured onto ice/water. Allowed to stand for 2 days then filtered off the precipitate and dried in air to yield the product 2-chloro-5-nitro benzene sulphonylfluoride (36 parts).

reactant | 2--Chloro-5-nitro benzene sulphonylchloride | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
reactant | Potassium fluoride | [F-].[K+]
solvent | p-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-chloro-5-nitro benzene sulphonylfluoride | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)F | C6H3ClFNO4S
